US06194574B1
E. 4-(N,N-Dipropyl)amino-2-methyl-10-(2,4,6-trimethylphenyl)-pyrido[2,3-b]indolizine
A mixture of 4-chloro-2-methyl-10-(2,4,6-trimethylphenyl)pyrido[2,3-b]indolizine (10.0 g; 30 mmol) and dipropylamine (15 mL; 1 mol) in DMSO (30 mL) is heated at 130° C. under nitrogen atmosphere for two days. The mixture is cooled to room temperature, diluted with water (ca. 300 mL), and extracted with ether (100 mL×2). The combined organics are washed successively with saturated ammonium chloride and saturated brine, dried (Na2SO4), filtered, and concentrated. The concentrate is chromatographed (first with 5% ethyl acetate in hexane and then with 10% triethylamine in hexane) to give 10.4 g of the title compound (compound 1, Table 1) as a fluorescent yellow foam (87%): 1H nmr (400 MHz, CDCl3) d 0.90 (t, 6 H), 1.6 (br, 4 H), 2.02 (s, 6 H), 2.37 (s, 3 H), 2.62 (s, 3 H), 3.2 (br, 4 H), 6.52 (t, 1 H), 6.73 (s, 1 H), 6.89 (t, 1 H), 7.00 (s, 2 H), 7.06 (d, 1 H), 8.98 (d, 1 H).

reactant | 4-chloro-2-methyl-10-(2,4,6-trimethylphenyl)pyrido[2,3-b]indolizine | 30 mmol, 10.0 g | ClC1=CC(=NC=2C(=C3C=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C | C21H19ClN2
reactant | dipropylamine | 1 mol, 15 mL | C(CC)NCCC | C6H15N
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | water | ca. 300 mL | O | H2O
product | 4-(N,N-Dipropyl)amino-2-methyl-10-(2,4,6-trimethylphenyl)-pyrido[2,3-b]indolizine | 10.4 g, 87% | C(CC)N(CCC)C1=CC(=NC=2C(=C3C=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C | C27H33N3
